US08669271B2
4-[5-(3-Cyano-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester
To a mixture of 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester (37 mg) and 3-cyanophenylboronic acid (18 mg) in N,N-dimethyl-formamide (2 mL) a 2 M aqueous Na2CO3 solution (0.125 mL) is added. The mixture is sparged with argon and PdCl2[1,1′-bis(diphenylphosphino)-ferrocene]*CH2Cl2 complex (8.2 mg) is added. The resulting mixture is stirred over night at 90° C. After cooling to room temperature, the mixture is filtered through basic alumina, washed with DMF/MeOH (9:1) and concentrated. The residue is purified by preparative HPLC (eluent water (+0.1% TFA)/MeOH) to yield the desired product. HPLC (method 8): tR=1.95 min; Mass spectrum (ESI+): m/z=391 [M+H]+.

reactant | 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester | 37 mg | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)Br | C17H22BrNO3
reactant | 3-cyanophenylboronic acid | 18 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Na2CO3 | 2 M, 0.125 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethyl-formamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[5-(3-Cyano-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=CC(=CC=C2)C#N | C24H26N2O3
